US06579328B2
1-(2-Nitro-4-trifluoromethylphenoxy)-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 3.9 g (25 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 7.84 g (76 mmol) of tert-butyl nitrite, 25 mg (0.25 mmol) of copper(II) fluoride, 120 mL of acetonitrile and 10.3 g (50 mmol) of 2-nitro-4-trifluoromethylaniline at 65° C. The crude product obtained is purified by vacuum flash chromatography (heptane) to give 6.0 g of light yellow crystals melting at 54-55° C., a 68.9% yield based on nitroxyl. The structure is confirmed by 1Hnmr, mass spectroscopy and elemental analyses.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 25 mmol, 3.9 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | tert-butyl nitrite | 76 mmol, 7.84 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-nitro-4-trifluoromethylaniline | 50 mmol, 10.3 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3N2O2
catalyst | copper(II) fluoride | 0.25 mmol, 25 mg | [Cu](F)F
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1-(2-Nitro-4-trifluoromethylphenoxy)-2,2,6,6-tetramethylpiperidine | 6.0 g, 68.9% yield | [N+](=O)([O-])C1=C(ON2C(CCCC2(C)C)(C)C)C=CC(=C1)C(F)(F)F | C16H21F3N2O3
